US09024018B2
(E)-4-(2-(5-Nitro-1H-imidazol-4-yl)vinyl)benzonitrile
4-Cyanobenzaldehyde (75 g, 0.57 mol) was heated to 110° C. Once melted, 4-methyl-5-nitroimidazole (15 g, 0.12 mol) and piperidine (5 g, 0.06 mol) were added and heating continued for a further 24 hours. DMF (15 mL) and IPA (150 mL) were then added and the precipitate filtered from solution and washed with IPA (50 mL) to leave the product as a yellow solid (13.8 g, 49%). mp>300° C. δH (DMSO-d6) 7.95 (1H, s), 7.88 (2H, d, J=6.8), 7.78 (2H, d, J=6.8), 7.78 (1H, d, J=16.8), 7.50 (1H, d, J=16.8); IR (cm−1) 2239 (C≡N), 1502, 1348 (NO2); MS (m/z) 241.1 (C12H9N4O2 (M+1)).

reactant | 4-Cyanobenzaldehyde | 0.57 mol, 75 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | 4-methyl-5-nitroimidazole | 0.12 mol, 15 g | CC=1N=CNC1[N+](=O)[O-] | C4H5N3O2
reactant | piperidine | 0.06 mol, 5 g | N1CCCCC1 | C5H11N
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | IPA | 150 mL | CC(C)O | C3H8O
product | (E)-4-(2-(5-Nitro-1H-imidazol-4-yl)vinyl)benzonitrile | 13.8 g, 49% | [N+](=O)([O-])C1=C(N=CN1)/C=C/C1=CC=C(C#N)C=C1 | C12H8N4O2
